US07232821B2
b) 3-{2-[2-(Hydroxy)-phenyl]-cyclopent-1-enyl}-benzoic acid
3-[2-(2-Methoxy-phenyl)-cyclopent-1-enyl]-benzoic acid ethyl ester (610 mg, 1.89 mmol) was dissolved in 1M boron tribromide in dichloromethane solution (18.9 ml, 18.9 mmol) and left at room temperature for 18 hours. The resulting solution was poured onto ice and extracted with dichloromethane. The organic extract was dried (MgSO4), evaporated to dryness and purified by chromatography using biotage with iso-hexane containing a gradient of ethyl acetate (20–40%) to yield the title compound as a light brown solid. (186 mg, 35%).

reactant | 3-[2-(2-Methoxy-phenyl)-cyclopent-1-enyl]-benzoic acid ethyl ester | 1.89 mmol, 610 mg | C(C)OC(C1=CC(=CC=C1)C1=C(CCC1)C1=C(C=CC=C1)OC)=O | C21H22O3
reactant | dichloromethane | 18.9 mmol, 18.9 ml | ClCCl | CH2Cl2
solvent | boron tribromide | 1M | B(Br)(Br)Br | BBr3
product | 3-{2-[2-(Hydroxy)-phenyl]-cyclopent-1-enyl}-benzoic acid | OC1=C(C=CC=C1)C1=C(CCC1)C=1C=C(C(=O)O)C=CC1 | C18H16O3
